US05605899
2-Chloromethyl-1-phenylmethyl-1H-imidazo[4,5-c]quinolin-4-amine Hydrochloride
4-Amino-1-phenylmethyl-1H-imidazo[4,5-c]quinoline-2-methanol (2.0 g; 0.0066 mol, Example 27 was added in small portions to thionyl chloride (10 mL). After stirring at room temperature for 30 min the product had crystallized from solution. The mixture was diluted with dry ether (75 mL). The solid was filtered from the mixture, washed with ether, and thoroughly dried. The product was used as such without further characterization or purification.

reactant | 4-Amino-1-phenylmethyl-1H-imidazo[4,5-c]quinoline-2-methanol | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC2=CC=CC=C2)CO | C18H16N4O
reactant | thionyl chloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
product | 2-Chloromethyl-1-phenylmethyl-1H-imidazo[4,5-c]quinolin-4-amine Hydrochloride | Cl.ClCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CC1=CC=CC=C1 | InChI=1S/C18H15ClN4.ClH/c19-10-15-22-16-17(23(15)11-12-6-2-1-3-7-12)13-8-4-5-9-14(13)21-18(16)20;/h1-9H,10-11H2,(H2,20,21);1H
